US03991087
A mixture of ethyl 8-acetyl-8-phenyl-12-benzyloxyheptadecanoate (14 g., crude), sodium hydroxide (2.0 g., 0.05 mole) and methanol (150 ml.) is stirred for 48 hours. The methanol is removed in vacuo; and the residual oil is poured into H2O (100 ml.), acidified with 6 N HCl (100 ml.), extracted with ether, and the combined ether extracts dried over anhydrous Na2SO4. The ether is removed in vacuo, and the residual oil is chromatographed through a silica gel column (95% CHCH3 -5% MeOH) to obtain 8-acetyl-8-phenyl-12-benzyloxyheptadecanoic acid (1.43 g., slightly impure).

reactant | ethyl 8-acetyl-8-phenyl-12-benzyloxyheptadecanoate | 14 g | C(C)(=O)C(CCCCCCC(=O)OCC)(CCCC(CCCCC)OCC1=CC=CC=C1)C1=CC=CC=C1 | C34H50O4
reactant | sodium hydroxide | 0.05 mole, 2.0 g | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 8-acetyl-8-phenyl-12-benzyloxyheptadecanoic acid | C(C)(=O)C(CCCCCCC(=O)O)(CCCC(CCCCC)OCC1=CC=CC=C1)C1=CC=CC=C1 | C32H46O4
